US04419516
(1,2,4-Triazolo[4,3-a]pyridin-3-ylthio)-acetonitrile
Following the procedure of Example 3, and substituting 3-mercapto-1,2,4-triazolo[4,3-a]pyridine, prepared according to Example 2, for imidazo[1,5-a]pyridine-3(2H)-thione, the title compound is prepared in 52% yield. The compound, after recrystallization from a mixture of benzene-acetonitrile, melts at 121°-3° C.

reactant | 3-mercapto-1,2,4-triazolo[4,3-a]pyridine | SC1=NN=C2N1C=CC=C2 | C6H5N3S
reactant | imidazo[1,5-a]pyridine-3(2H)-thione | C=1NC(N2C1C=CC=C2)=S | C7H6N2S
product | (1,2,4-Triazolo[4,3-a]pyridin-3-ylthio)-acetonitrile | 52% yield | N=1N=C(N2C1C=CC=C2)SCC#N | C8H6N4S
